US05256780
A mixture of 2-(indol-2-yl)-2-methylpropiononitrile (300 mg) and 5% rhodium on alumina powder (500 mg) in 10N-ammonia-methanol was hydrogenated at 50-60 psi for 8 hours. After filtration of the catalyst, the filtrate was evaporated in vacuo to give 2-(indol-2-yl)-2-methylpropylamine (306 mg) as crystals.

reactant | 2-(indol-2-yl)-2-methylpropiononitrile | 300 mg | N1C(=CC2=CC=CC=C12)C(C#N)(C)C | C12H12N2
reactant | ammonia methanol | N.CO
catalyst | rhodium on alumina | 500 mg | [Rh] | Rh
product | 2-(indol-2-yl)-2-methylpropylamine | 306 mg | N1C(=CC2=CC=CC=C12)C(CN)(C)C | C12H16N2
